US07550495B2
Step D: Methyl (4-{[(4,4-difluorocyclohexyl)methyl]amino}-3-nitrophenyl)carbamate
Following the same procedure as in Step C of Example 1 using [(4,4-difluorocyclohexyl)methyl]amine hydrochloride (210 mg, 1.12 mmol), methyl (4-fluoro-3-nitrophenyl)carbamate (200 mg, 0.934 mmol) and TEA (0.390 mL, 2.80 mmol) in 10 mL of EtOH. The crude product was purified by silica gel flash chromatography using 5% ether/DCM as eluent. Yield: 200 mg (62%). 1H NMR (400 MHz, CHLOROFORM-D): δ 1.34-1.47 (m, 2 H), 1.65-1.75 (m, 2 H), 1.78-1.85 (m, 1 H), 1.90-1.93 (m, 1 H), 1.94-1.97 (m, 1 H), 2.10-2.21 (m, 2 H), 3.23 (dd, J=6.64, 5.66 Hz, 2 H), 3.78 (s, 3 H), 6.48 (br.s, 1 H), 6.83 (d, J=9.18 Hz, 1 H), 7.66 (br.s, 1 H), 8.05 (br.s, 1 H), 8.07 (d, J=2.54 Hz, 1 H).

reactant | [(4,4-difluorocyclohexyl)methyl]amine hydrochloride | 1.12 mmol, 210 mg | Cl.FC1(CCC(CC1)CN)F
reactant | methyl (4-fluoro-3-nitrophenyl)carbamate | 0.934 mmol, 200 mg | FC1=C(C=C(C=C1)NC(OC)=O)[N+](=O)[O-] | C8H7FN2O4
solvent | EtOH | 10 mL | CCO | C2H6O
product | Methyl (4-{[(4,4-difluorocyclohexyl)methyl]amino}-3-nitrophenyl)carbamate | FC1(CCC(CC1)CNC1=C(C=C(C=C1)NC(OC)=O)[N+](=O)[O-])F | C15H19F2N3O4
